US04341904
Step 1: 6,9-Dimethyl-5,6,7,8,9,10-hexahydro-6,9-methanobenzocycloocten-11-one
α,α'-Dibromoxylene (30.3 g., 0.115 Mole) is dissolved in dry acetonitrile (250 ml.) and then, under nitrogen, the pyrrolidine enamine of 2,5-dimethylcyclopentanone (prepared from 2,5-dimethylcyclopentanone and pyrrolidine via the method of Stork) is added dropwise over one-half hour. The mixture is refluxed 2 days, cooled, water (100 ml.) is added; and the mixture is refluxed 1 hour, cooled, concentrated in vacuo, then extracted with ether (3×75 ml.). The combined extracts are washed with 10% HCl (50 ml.), brine (50 ml.), then dried and evaporated to yield 16 g. of solid, which recrystallized from dichloroethane-hexane gives pure title compound (9.7 g.). The mother liquors are chromatographed on silica gel (100 g.), eluting with ether-hexane (1:4) to give 5.8 g. more title compound, which yields 4.9 g. pure on crystallization from ether-hexane (64% total yield), m.p. 134°-135° C.

reactant | α,α'-Dibromoxylene | 0.115 Mole, 30.3 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | 2,5-dimethylcyclopentanone | CC1C(C(CC1)C)=O | C7H12O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 6,9-Dimethyl-5,6,7,8,9,10-hexahydro-6,9-methanobenzocycloocten-11-one | 9.7 g | CC12CC3=C(CC(CC1)(C2=O)C)C=CC=C3 | C15H18O
